US05709867
(c) Preparation of N-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycine
6.3 g (24 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycine, 25 ml of TEF and 50 ml of NaOH (1N) were introduced into a round-bottomed flask. 15 g (70 mmol) of di-tert-butyl dicarbonate were added and the mixture was stirred at room temperature for 12 hours. The reaction medium was extracted with ethyl ether (3×100 ml), the aqueous phase was recovered, acidified to pH 2 with concentrated hydrochloric acid, and extracted with ethyl ether. The organic phase decanted off, washed with water, dried over magnesium sulfate and evaporated. 7.1 g (82%) of the intended compound were recovered.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycine | 24 mmol, 6.3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)NCC(=O)O)C | C16H23NO2
reactant | di-tert-butyl dicarbonate | 70 mmol, 15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1N, 50 ml | [OH-].[Na+]
product | N-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylglycine | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C21H31NO4
